US06495541B1
2-Bromo-8-fluoro-1,3,4,5-tetrahydro-azepino[5,4,3-cd]indol-6-one
The title compound was prepared in a manner similar to that used for 2-bromo-1,3,4,5-tetrahydro-azepino[5,4,3-cd]indol-6-one, starting from 5-fluoro-2-methylbenzoic acid. 2-Bromo-8-fluoro-1,3,4,5-tetrahydro-azepino[5,4,3-cd]indol-6-one was isolated as an orange solid: m.p. 203-204° C. (dec); 1H NMR (300 MHz, d6-DMSO) δ2.79 (m, 2H), 3.41 (m, 2H), 7.29 (dd, J=8.7, 1.2 Hz, 1H), 7.74 (dd, J=10.8, 1.5 Hz, 1H), 8.23 (br t, 1H), 12.12 (br s, 1H). MS (electrospray, [M+Na]+) 305/307.

reactant | 2-bromo-1,3,4,5-tetrahydro-azepino[5,4,3-cd]indol-6-one | BrC=1NC=2C=CC=C3C2C1CCNC3=O | C11H9BrN2O
reactant | 5-fluoro-2-methylbenzoic acid | FC=1C=CC(=C(C(=O)O)C1)C | C8H7FO2
product | 2-Bromo-8-fluoro-1,3,4,5-tetrahydro-azepino[5,4,3-cd]indol-6-one | BrC=1NC=2C=C(C=C3C2C1CCNC3=O)F | C11H8BrFN2O
